US08022062B2
3-Chloro-4-(3,3-dimethyl-butyryl)-benzylamine:
Add 4N hydrogen chloride in dioxane (0.9 mL, 3.6 mmol) to a solution of N-(tert-butoxycarbonyl)-3-chloro-4-(3,3-dimethyl-butyryl)-benzylamine (100 mg, 0.3 mmol) in dichloromethane (6 mL) and stir overnight. Concentrate in vacuo and wash the solid obtained with diethyl ether. Suspend the solid into saturated aqueous NaHCO3 and stir for 30 min. Extract twice with dichloromethane. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to obtain the title compound as a yellow oil (66 mg, 92%).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | dioxane | 3.6 mmol, 0.9 mL | O1CCOCC1 | C4H8O2
reactant | N-(tert-butoxycarbonyl)-3-chloro-4-(3,3-dimethyl-butyryl)-benzylamine | 0.3 mmol, 100 mg | C(C)(C)(C)OC(=O)NCC1=CC(=C(C=C1)C(CC(C)(C)C)=O)Cl | C18H26ClNO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 3-Chloro-4-(3,3-dimethyl-butyryl)-benzylamine | 66 mg, 92% | ClC=1C=C(CN)C=CC1C(CC(C)(C)C)=O | C13H18ClNO
